US08420678B2
4-Dodecyl-N-(5-ethyl-1,3,4-thiadiazol-2-yl)benzenesulfonamide (112).
2-Amino-5-ethyl-1,3,4-thiadiazole (169 mg, 1.3 mmol) was suspended in pyridine (0.5 mL). p-Dodecylbenzenesulfonyl chloride (300 mg, 0.87 mmol) was added slowly at 0° C. The reaction mixture was then heated to 95° C. and was stirred at this temperature for 1 h. The reaction mixture was then added to aqueous 10% HCl (5 mL) and the resulting mixture extracted with ethyl acetate (3×10 mL). The organic extracts were washed with water, brine, dried over anhydrous Na2SO4, filtered, and volatiles evaporated to yield a solid mass. Chromatography on silica gel (70-230 mesh) eluted with 2% MeOH in CH2Cl2 gave the product (225 mg, 0.51 mmol, 59%). Recrystallization from hexanes:ethyl acetate (3:7) gave an analytical sample, mp 93-94° C.; 1H NMR (500 MHz, CDCl3) δ 0.88 (3, t, J=6.5 Hz), 1.20-1.36 (18, m), 1.33 (3, t, J=7.5 Hz), 1.54-1.63 (2, m), 2.63 (2, t, J=7.5 Hz), 2.84 (2, q, J=7.5 Hz), 7.25 (2, d, J=8.5 Hz), 7.83 (2, d, J=8.5 Hz), 12.30 (1, br s); 13C NMR (125 MHz, CDCl3) δ 12.6, 14.1, 22.7, 24.4, 29.2, 29.3, 29.4, 29.5, 29.6, 31.1, 31.9, 35.9, 126.5, 128.8, 138.4, 148.2, 160.1 168.2; MS (ESI+, m/z) Calcd for C22H36N3O2S2 438.2249, found 438.30 (M+H)+; HRMS (ESI+, m/z) Calcd for C22H36N3O2S2 438.2249, found 438.2247 (M+H)+.

reactant | 2-Amino-5-ethyl-1,3,4-thiadiazole | 1.3 mmol, 169 mg | NC=1SC(=NN1)CC | C4H7N3S
reactant | p-Dodecylbenzenesulfonyl chloride | 0.87 mmol, 300 mg | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H29ClO2S
reactant | HCl | 5 mL | Cl | ClH
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-Dodecyl-N-(5-ethyl-1,3,4-thiadiazol-2-yl)benzenesulfonamide | 0.51 mmol, 225 mg, 59% | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC(=NN1)CC | C22H35N3O2S2
